US09340546B2
Pd on C, wet, Degussa (25 mg, 0.1175 mmol) was added to a stirred solution of 5-fluoro-4-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)pyridin-3-amine (61 mg, 0.2943 mmol) in EtOAc (5 mL)/EtOH (5 mL). The reaction was placed under an atmosphere of hydrogen and stirred at ambient temperature for 15 hours. A further portion of Pd on C, wet, Degussa (25 mg, 0.1175 mmol) was added and the reaction was placed under an atmosphere of hydrogen and stirred at ambient temperature for 24 hours. The catalyst was removed by filtration through a pad of celite and the filtrate concentrated in vacuo to give 5-fluoro-4-(1-methylpiperidin-4-yl)pyridin-3-amine as an off-white solid (58 mg, 95% Yield). MS (ES+) 210.1.

reactant | 5-fluoro-4-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)pyridin-3-amine | 0.2943 mmol, 61 mg | FC=1C(=C(C=NC1)N)C=1CCN(CC1)C | C11H14FN3
reactant | EtOH | 5 mL | CCO | C2H6O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd | [Pd] | Pd
product | 5-fluoro-4-(1-methylpiperidin-4-yl)pyridin-3-amine | 58 mg, 95% Yield | FC=1C(=C(C=NC1)N)C1CCN(CC1)C | C11H16FN3
